US04478842
A solution of 0.334 g of ethyl β-(3-pyridyl)-β-(5-ethoxycarbonylpentylamino)acrylate and 0.108 g of p-benzoquinone in 1 ml of glacial acetic (according to the general procedure as described in J. Chem. Soc. C 1968, 1795) is heated at 60° for 4 hours. The reaction mixture is cooled, diluted with 10 ml of water, neutralized to pH 7 with saturated sodium bicarbonate solution and extracted with methylene chloride. The methylene chloride extract is dried, evaporated to dryness and the resulting product is purified by preparative TLC (silica gel; ethyl acetate, hexane 1:1) to give 1-(5-ethoxycarbonylpentyl-3-ethoxycarbonyl-5-hydroxy-2-(3-pyridyl)indole, NMR δ3.95, 4.1, 8.75.

reactant | ethyl β-(3-pyridyl)-β-(5-ethoxycarbonylpentylamino)acrylate | 0.334 g | N1=CC(=CC=C1)C(=CC(=O)OCC)NCCCCCC(=O)OCC | C18H26N2O4
reactant | p-benzoquinone | 0.108 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic | 1 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | water | 10 ml | O | H2O
product | 5-ethoxycarbonylpentyl-3-ethoxycarbonyl-5-hydroxy-2-(3-pyridyl)indole | C(C)OC(=O)CCCCCC1=C2C(=C(NC2=CC=C1O)C=1C=NC=CC1)C(=O)OCC | C24H28N2O5
